US05736568
A mixture of 4-chlorophenol (12.86 g), absolute ethanol (30 ml), formaldehyde (7.49 ml of a 37% aqueous solution) and piperidine (10.88 ml) was boiled under reflux for 4 hours. The mixture was evaporated to dryness and toluene (50 ml) was added. The mixture was evaporated to dryness and the residue was dissolved in 2M hydrochloric acid, washed with ethyl acetate, basified with concentrated sodium hydroxide solution and then extracted with dichloromethane to give 4-chloro-2-(piperidinomethyl)phenol as an oil which solidified on standing, m.p. 53°-56° C.

reactant | 4-chlorophenol | 12.86 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | formaldehyde | C=O | CH2O
reactant | piperidine | 10.88 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-chloro-2-(piperidinomethyl)phenol | ClC1=CC(=C(C=C1)O)CN1CCCCC1 | C12H16ClNO
